US05352684
P. 5-Acetyl-1,4-dihydro-2,6-dimethyl-3-[8-(4,4-diphenyl-1-piperidinyl) octanoyl]-4-(3-nitrophenyl)-pyridine
10 g (21 mmol) 5-acetyl-3-(8-bromo-octanoyl)-1,4-dihydro-2,6-dimethyl-4(3-nitrophenyl)-pyridine are reacted first with 6.3 g (42 mmol) sodium iodide and then with 11. 5 g (40 mmol) 4,4-diphenylpiperidine hydrochloride, as described for starting compound B. Working up is carried out as described for starting compound B. The crude product is chromatographed with increasing polarity, first with toluene/acetone=9/1 and finally with toluene/acetone =6/4. The product thus obtained is recrystallized from 70 ml acetonitrile. The title compound is obtained as a yellow solid. Yield: 11 g (82%). M.p. 141°-145° C. (acetonitrile).

reactant | 5-acetyl-3-(8-bromo-octanoyl)-1,4-dihydro-2,6-dimethyl-4(3-nitrophenyl)-pyridine | 21 mmol, 10 g | C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCCCCBr)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C23H29BrN2O4
reactant | sodium iodide | 42 mmol, 6.3 g | [I-].[Na+]
reactant | 4,4-diphenylpiperidine hydrochloride | 40 mmol, 5 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
product | 5-Acetyl-1,4-dihydro-2,6-dimethyl-3-[8-(4,4-diphenyl-1-piperidinyl) octanoyl]-4-(3-nitrophenyl)-pyridine | C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C40H47N3O4
